US07456164B2
1-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-piperidine-4-carboxylic acid amide
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (500 mg, 1.58 mmol), isonipecotamide (434 mg, 3.03 mmol), absolute ethanol (20 ml), activated 3 Å molecular sieves (500 mg), titanium (IV) isopropoxide (2.31 ml, 7.88 mmol) and STAB (2.84 g, 13.6 mmol) were reacted in accordance with the general procedure D. The isolated crude product was purified by column chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1) to give the title compound as a colorless solid (400 mg, 59%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.85 (d, 2H), 5.45 (br s, 2H), 4.01 (t, 2H), 3.79-3.69 (m, 2H), 3.57-3.46 (m, 2H), 2.63 (t, 2H), 2.53 (br s, 4H), 2.35 (s, 2H), 2.31 (br s, 1H), 2.14-1.72 (m, 14H), 1.67-1.51 (m, 4H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.58 mmol, 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | isonipecotamide | 3.03 mmol, 434 mg | N1CCC(C(=O)N)CC1 | C6H12N2O
catalyst | titanium (IV) isopropoxide | 7.88 mmol, 2.31 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-piperidine-4-carboxylic acid amide | 400 mg, 59% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCC(CC1)C(=O)N | C25H39N3O3
